US04039612
A stirred mixture of p-toluidine (1100 parts) and nonyl bromide (478 parts) was heated on a steam bath for 20 hours, cooled and diluted with water (200 parts). The mixture was then made alkaline with caustic soda and after separation of the aqueous phase the residual oil was distilled under reduced pressure to obtain N-nonyl-p-toluidine (452 parts) as a pale yellow oil boiling at 136°-140° C. at 0.8 mm.

reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | nonyl bromide | C(CCCCCCCC)Br | C9H19Br
reactant | caustic soda | [OH-].[Na+]
solvent | water | O | H2O
product | N-nonyl-p-toluidine | C(CCCCCCCC)NC1=CC=C(C=C1)C | C16H27N
